US08309546B2
Step 1: tert-Butyl {5-[8-{4-[(dimethylamino)(oxo)acetyl]piperazin-1-yl}-6-morpholin-4-yl-9-(2,2,2-trifluoroethyl)-9H-purin-2-yl]pyrimidin-2-yl}carbamate
N,N-Dimethyl-oxalamic acid (34 mg, 0.29 mmol), hydroxybenzotriazole hydrate (45 mg, 0.29 mmol), and tetrahydrofuran (5 ml) were added to tert-butyl {5-[6-morpholin-4-yl-8-piperazin-1-yl-9-(2,2,2-trifluoroethyl)-9H-purin-2-yl]pyrimidin-2-yl}carbamate (150 mg, 0.27 mmol). 1-Ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride (56 mg, 0.29 mmol) and triethylamine (74 μl, 0.53 mmol) were added and the resulting mixture was stirred for 18 hours. The reaction mixture was partitioned with ethyl acetate and water and the organic layer was washed with saturated aqueous sodium bicarbonate solution and dried over magnesium sulfate. The solvent was evaporated under reduced pressure and then the residue was purified by silica gel chromatography (chloroform:methanol=19:1) to give the title compound (148 mg, 84%) as a white solid.

reactant | N,N-Dimethyl-oxalamic acid | 0.29 mmol, 34 mg | CN(C(C(=O)O)=O)C | C4H7NO3
reactant | hydroxybenzotriazole hydrate | 0.29 mmol, 45 mg | O.OC1=CC=CC=2NN=NC21
reactant | tert-butyl {5-[6-morpholin-4-yl-8-piperazin-1-yl-9-(2,2,2-trifluoroethyl)-9H-purin-2-yl]pyrimidin-2-yl}carbamate | 0.27 mmol, 150 mg | N1(CCOCC1)C1=C2N=C(N(C2=NC(=N1)C=1C=NC(=NC1)NC(OC(C)(C)C)=O)CC(F)(F)F)N1CCNCC1 | C24H31F3N10O3
reactant | 1-Ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 0.29 mmol, 56 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | triethylamine | 0.53 mmol, 74 μl | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | tert-Butyl {5-[8-{4-[(dimethylamino)(oxo)acetyl]piperazin-1-yl}-6-morpholin-4-yl-9-(2,2,2-trifluoroethyl)-9H-purin-2-yl]pyrimidin-2-yl}carbamate | 148 mg, 84% | CN(C)C(C(=O)N1CCN(CC1)C=1N(C2=NC(=NC(=C2N1)N1CCOCC1)C=1C=NC(=NC1)NC(OC(C)(C)C)=O)CC(F)(F)F)=O | C28H36F3N11O5
